US07259266B2
The 2-amino-3-bromo-5-methylbenzoic acid (20.0 g, 86.0 mmol) was dissolved in tetrahydrofuran (200 ml) and cooled to 0° C. A solution of borane dimethylsulfide complex (15.6 mL, 156.0 mmol) was dissolved in tetrahydrofuran (40 mL) and added dropwise. The solution was kept at 0° C. for an additional 30 minutes, warmed to room temperature for 2 h and finally refluxed for 16 h. The solution was cooled to room temperature and methanol (10 mL) added slowly to control the gas evolution. The solution was stirred for 30 minutes at room temperature and 1 N hydrochloric acid added. The solution was stirred for 3 h and solvent removed to a volume of about 100 mL. Water (200 mL) was added and the solution extracted with diethylether (200 mL). The aqueous layer was collected, adjusted to pH=12 with 1N sodium hydroxide which formed a solid in the solution. The solid was collected, dissolved in ethyl acetate (100 mL), dried over sodium sulfate and solvent removed at reduced pressure. The (2-amino-3-bromo-5-methylphenyl)methanol (9.5 g, 43.9 mmol) was obtained as a off white solid. (51% yield): HRMS m/z 216.0047; calcd for M+H 216.0024.

reactant | 2-amino-3-bromo-5-methylbenzoic acid | 86.0 mmol, 20.0 g | NC1=C(C(=O)O)C=C(C=C1Br)C | C8H8BrNO2
reactant | methanol | 10 mL | CO | CH4O
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | (2-amino-3-bromo-5-methylphenyl)methanol | 43.9 mmol, 9.5 g, 51% yield | NC1=C(C=C(C=C1Br)C)CO | C8H10BrNO
